US08895313B2
2-(4-Amino-2-methoxyphenyl)benzothiazole
Prepared as described in the Nitro Reduction section using 2-(2-methoxy-4-nitrophenyl)benzothiazole (0.1 g, 0.35 mmol) and tin (II) dichloride dihydrate (0.63 g, 2.8 mmol) in EtOH (12 ml) to give the title compound (0.086 g, 96%) as a pale orange solid after work-up and flash chromatography (2:1 Hexane/THF).

reactant | 2-(2-methoxy-4-nitrophenyl)benzothiazole | 0.35 mmol, 0.1 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC=C2 | C14H10N2O3S
reactant | tin (II) dichloride dihydrate | 2.8 mmol, 0.63 g | O.O.[Sn](Cl)Cl
reactant | Hexane THF | CCCCCC.C1CCOC1
solvent | EtOH | 12 ml | CCO | C2H6O
product | 2-(4-Amino-2-methoxyphenyl)benzothiazole | 0.086 g, 96% | NC1=CC(=C(C=C1)C=1SC2=C(N1)C=CC=C2)OC | C14H12N2OS
